US08835420B2
(S)-5-Chloro-N4-(1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidine-2,4,6-triamine
(S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride (95 mg, 0.372 mmol), 5,6-dichloropyrimidine-2,4-diamine (100 mg, 0.559 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.20 mL, 1.1 mmol) were combined in acetonitrile (6 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then at 160° C. for 1.5 hours. The mixture was concentrated. The residue was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 30% ACN in water. The fractions containing the desired compound were combined and extracted with EtOAc (200 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound (21 mg, 14%). 1H NMR (500 MHz, CD3OD) δ ppm 1.38 (d, J=6.35 Hz, 3 H), 3.65 (s, 3 H), 3.83-3.89 (m, 3 H), 5.38 (q, J=6.67 Hz, 1 H), 6.40-6.46 (m, 1 H), 6.65-6.70 (m, 1 H), 7.58-7.64 (m, 2 H), 7.80 (s, 1 H); ESI-MS m/z [M+H]+ calc'd for C18H20ClN9, 398; found 398.

reactant | (S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride | 0.372 mmol, 95 mg | Cl.CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)N
reactant | 5,6-dichloropyrimidine-2,4-diamine | 0.559 mmol, 100 mg | ClC=1C(=NC(=NC1Cl)N)N | C4H4Cl2N4
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.1 mmol, 0.20 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-5-Chloro-N4-(1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidine-2,4,6-triamine | 21 mg, 14% | ClC=1C(=NC(=NC1N)N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C | C18H20ClN9
